US09169259B2
To a solution of methyl 4-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoate (220 mg, 0.51 mmol) in dioxane (10 mL) and water (9 mL) was added NaOH (200 mg, 5 mmol), then the mixture was heated to 40° C. with stirring for 4 h. The solution was concentrated to approximately 10 mL in vacuo and washed with dichloromethane (10 mL×3). Water (10 mL) was added and the solution was adjusted to pH=4 by the addition of concentrated HCl. The solid formed was filtered to give 4-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid (0.185 g, 87%) as a light yellow solid. 1H NMR (300 MHz, DMSO): δ 9.72 (s, 1H), 8.82 (s, 1H), 8.23 (s, 1H), 8.09-8.02 (m, 3H), 7.69 (s, 1H), 7.44 (t, 1H, J=7.5 Hz), 6.73 (d, 1H, J=7.5 Hz), 6.08 (d, 1H, J=8.4 Hz), 4.23-4.20 (m, 1H), 3.58-3.56 (m, 2H), 2.08-1.97 (m, 3H), 1.68 (s, 1H), 1.12 (d, 1H, J=6.3 Hz). LC-MS: [M+H]+, 415, tR=1.652 min, HPLC: 98.19% at 214 nm, 97.87% at 254 nm, tR=5.967 min.

reactant | methyl 4-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoate | 0.51 mmol, 220 mg | CC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C1=CC=C(C(=O)OC)C=C1)C=CN2 | C24H24N6O2
reactant | NaOH | 5 mmol, 200 mg | [OH-].[Na+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 9 mL | O | H2O
product | 4-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid | 0.185 g, 87% | CC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C1=CC=C(C(=O)O)C=C1)C=CN2 | C23H22N6O2
